US04211548
Ethyl-N-[bis(metachlorophenoxy)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine (1.0 g.) was dissolved in 15 ml. of 35% hydrobromic acid in acetic acid and was stirred for one hour. The reaction mixture was concentrated under vacuum and the residue triturated thoroughly with ether three times, dissolved in benzene and treated with excess propylene oxide. The resultant solution was concentrated in vacuo and the residue chromatographed on silica gel using diethyl ether as an eluant to yield ethyl-N-[bis(metachlorophenoxy)phosphinothioylmethyl]glycine as an oil, ND25 =1.5371, which gave the following analysis.

reactant | Ethyl-N-[bis(metachlorophenoxy)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine | 1.0 g | C(C)C(N(C(=O)OCC1=CC=CC=C1)CP(=S)(OC1=CC(=CC=C1)Cl)OC1=CC(=CC=C1)Cl)C(=O)O | C25H24Cl2NO6PS
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl-N-[bis(metachlorophenoxy)phosphinothioylmethyl]glycine | C(C)N(CC(=O)O)CP(=S)(OC1=CC(=CC=C1)Cl)OC1=CC(=CC=C1)Cl | C17H18Cl2NO4PS
